US08541588B2
4-{4-Chloro-2-[1-(1-ethylazetidin-3-yl)-1H-pyrazol-5-yl]phenoxy}-3-cyano-N-1,3-thiazol-4-ylbenzenesulfonamide
To a suspension of 4-[2-(1-azetidin-3-yl-1H-pyrazol-5-yl)-4-chlorophenoxy]-3-cyano-N-1,3-thiazol-4-ylbenzenesulfonamide, Example 809 (500 mg, 0.000797 mol) in methanol (4 mL) and dichloromethane (4 mL) was added triethylamine (161 mg, 0.00159 mol) and the reaction cooled to 0° C. in an ice/water bath. To the suspension was added sodium triacetoxyborohydride (422 mg, 0.00199 mol) and the reaction was then stirred at 0° C. for 10 minutes. Acetaldehyde (105 mg, 0.00239 mol) was added dropwise and the reaction stirred at 0° C. for 1.5 hours. The solvent was removed in vacuo to give an orange oil which was partitioned between dichloromethane (25 mL) and water (25 mL). The organic layer was separated and the aqueous layer was extracted with dichloromethane (2×20 mL). The combined organic layers were washed with saturated aqueous sodium chloride solution (20 mL) and filtered through a phase separator. The solvent was removed in vacuo to give a pink solid which was triturated in hot ethyl acetate (10.0 mL), allowed to cool to room temperature and then filtered to give the title compound as a white solid, (431 mg).

reactant | 4-[2-(1-azetidin-3-yl-1H-pyrazol-5-yl)-4-chlorophenoxy]-3-cyano-N-1,3-thiazol-4-ylbenzenesulfonamide | N1CC(C1)N1N=CC=C1C1=C(OC2=C(C=C(C=C2)S(=O)(=O)NC=2N=CSC2)C#N)C=CC(=C1)Cl | C22H17ClN6O3S2
reactant | triethylamine | 0.00159 mol, 161 mg | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 0.00199 mol, 422 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Acetaldehyde | 0.00239 mol, 105 mg | C(C)=O | C2H4O
solvent | methanol | 4 mL | CO | CH4O
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 4-{4-Chloro-2-[1-(1-ethylazetidin-3-yl)-1H-pyrazol-5-yl]phenoxy}-3-cyano-N-1,3-thiazol-4-ylbenzenesulfonamide | 431 mg | ClC1=CC(=C(OC2=C(C=C(C=C2)S(=O)(=O)NC=2N=CSC2)C#N)C=C1)C1=CC=NN1C1CN(C1)CC | C24H21ClN6O3S2
